US05580872
(3R,1R )-8-(3-(1-Aminoethyl)pyrrolidinyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic Acid Hydrochloride
A 0.35 g sample of 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid ethyl ester, from Example 253i above, and 0.73 g of sodium bicarbonate were dissolved in 24 mL of anhydrous acetonitrile, reacted with (3R,1R)-3-(1-(t-butoxycarbonylamino)ethyl)-pyrrolidine (0.51 g, prepared as described by Schroeder et al., J. Heterocyclic Chem., 29:1481-1498 (1992)), and carried forward as described in Example 253k-l to give the title product. mp 220°-222° C. MS 374 (M+H)+ ; 1H NMR (D6 -DMSO) δ: 0.61 (m, 2H), 0.94 (m, 1H), 1.07 (m, 1H), 1.28 (d, 3H, J=6 Hz), 1.82 (m, 1H), 2.27 (m, 2H), 2.46 (m, 1H), 2.62 (s, 3H), 3.57 (s, 1H), 3.92 (m, 1H), 7.90 (s, 1H), 8.17 (br s, 3H), 9.07 (d, 1H, J=11 Hz), 13.84 (brs, 1H).

reactant | 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=C2C(=C(C(=CN2C1=O)F)Cl)C)C1CC1 | C16H15ClFNO3
reactant | sodium bicarbonate | 0.73 g | C([O-])(O)=O.[Na+]
reactant | (3R,1R)-3-(1-(t-butoxycarbonylamino)ethyl)-pyrrolidine | 0.51 g | C(C)(C)(C)OC(=O)N[C@H](C)[C@H]1CNCC1 | C11H22N2O2
solvent | acetonitrile | 24 mL | C(C)#N | C2H3N
product | (3R,1R )-8-(3-(1-Aminoethyl)pyrrolidinyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic Acid Hydrochloride | Cl.N[C@H](C)[C@H]1CN(CC1)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)O)=O)F | InChI=1S/C20H24FN3O3.ClH/c1-10-17-14(12-3-4-12)7-15(20(26)27)19(25)24(17)9-16(21)18(10)23-6-5-13(8-23)11(2)22;/h7,9,11-13H,3-6,8,22H2,1-2H3,(H,26,27);1H/t11-,13-;/m1./s1
